US07323460B2
2-(Azidomethyl)-4-chloro-N-methylbenzamide (0.88 g, 3.94 mmol) was dissolved in ethanol (25 mL), degassed, treated with 10% Pd on carbon (80 mg), and put under one atmosphere of hydrogen. After one hour the reaction was filtered through Celite, and concentrated in vacuo to afford 2-(aminomethyl)-N-methylbenzamide as a white solid.

reactant | 2-(Azidomethyl)-4-chloro-N-methylbenzamide | 3.94 mmol, 0.88 g | N(=[N+]=[N-])CC1=C(C(=O)NC)C=CC(=C1)Cl | C9H9ClN4O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(aminomethyl)-N-methylbenzamide | NCC1=C(C(=O)NC)C=CC=C1 | C9H12N2O
